US06506901B2
Step A: 1-Tridecyl-piperidine-4-carboxamide
Prepared from isonipecotamide (2.0 g, 15.6 mmol), 1-bromotridecane (4.0 mL, 15.6 mmol) and potassium carbonate (2.16 g, 15.6 mmol) of according to procedure used for Example 8 (Step A) to give 4.9 g of the title compound as a white solid.

reactant | isonipecotamide | 15.6 mmol, 2.0 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | 1-bromotridecane | 15.6 mmol, 4.0 mL | BrCCCCCCCCCCCCC | C13H27Br
reactant | potassium carbonate | 15.6 mmol, 2.16 g | C([O-])([O-])=O.[K+].[K+]
product | 1-Tridecyl-piperidine-4-carboxamide | 4.9 g | C(CCCCCCCCCCCC)N1CCC(CC1)C(=O)N | C19H38N2O
